US05279618
As reported, for example, in Prota, Progress in the Chemist of Melanins and Related Metabolites, Med. Res. Reviews, 8:525-56 (1988), melanins are naturally occurring pigments present in hair and skin. In humans biosynthesis takes place in tyrosinase containing melanocytes. The tyrosinase enzyme catalyzes the hydroxylation of tyrosine to dopa and its subsequent oxidation to dopachrome. Once formed, dopachrome undergoes a series of complex reactions in the formation of eumelanins and phaeomelanins. Melanins provide black and deep brown pigments, and are formed by oxidative polymerization of 5,6-dihydroxyindole derived biogenetically during the melanogenesis. On the other hand, phaeomelanins provide yellow to reddish brown pigmentation to hair, and are formed by oxidative polymerization of cystein-S-yl-dopas via 1,4-benzothiazine intermediates.

reactant | tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | dopa | O=C(O)[C@@H](N)CC1=CC=C(O)C(O)=C1 | C9H11NO4
reactant | dopachrome | C1C(NC2=CC(=O)C(=O)C=C21)C(=O)O | C9H7NO4
reactant | eumelanins | C1=C(C=C2C(=C1O)NC(=C(S2)C3=CN=C4C(=CC(=CC4=O)CC(C(=O)O)N)S3)C(=O)O)CC(C(=O)O)N | C23H20N4O8S2
reactant | phaeomelanins | CC1=C2C3=C(C4=CNC5=C(C(=O)C(=O)C(=C45)C3=CN2)C)C(=O)C1=O | C18H10N2O4
product | 5,6-dihydroxyindole | OC=1C=C2C=CNC2=CC1O | C8H7NO2
